US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-ethylphenyl)benzamide
A mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (41 mg, 0.15 mmol), N,N-diisopropylethylamine (0.105 mL, 0.60 mmol), and COMU (68 mg, 0.158 mmol) in 1.5 mL DMF was stirred at room temperature for 2 minutes, then 3-ethylaniline (0.127 mL, 0.90 mmol) added and the reaction continued for 4 hours at room temperature. The reaction mixture was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was chromatographed eluting with portions of CHCl3, then 1:1 CHCl3:EtOAc, and then 5% MeOH/CHCl3. The obtained solid was then triturated with an EtOAc/hexane mixture to give the title compound as a light beige solid (21 mg, 38%). 1H NMR (DMSO-d6) δ: 10.08 (s, 1H), 8.13 (s, 1H), 7.61-7.64 (m, 1H), 7.57-7.61 (m, 1H), 7.49-7.52 (m, 1H), 7.32-7.40 (m, 2H), 7.18-7.29 (m, 2H), 6.93-6.98 (m, 1H), 6.41 (s, 2H), 4.29 (s, 2H), 3.65 (t, J=6.0 Hz, 2H), 2.77 (t, J=5.9 Hz, 2H), 2.61 (q, J=7.6 Hz, 2H), 1.20 (t, J=7.6 Hz, 3H)

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.15 mmol, 41 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | N,N-diisopropylethylamine | 0.60 mmol, 0.105 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | COMU | 0.158 mmol, 68 mg | CCOC(=O)C(=NOC(=[N+](C)C)N1CCOCC1)C#N.F[P-](F)(F)(F)(F)F
reactant | 3-ethylaniline | 0.90 mmol, 0.127 mL | C(C)C=1C=C(N)C=CC1 | C8H11N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(3-ethylphenyl)benzamide | 21 mg, 38% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC(=CC=C1)CC)C=CC2 | C22H23N5O
